US07893066B2
In this example 3-(3-methyl-2-oxo-7-(3-(trifluoromethyl)benzylamino)-quinoxalin-I (2H)-yl)propanoic acid (50 mg) was dissolved in chloroform (1 mL). HOBt (20 mg), EDC hydrochloride (29 mg), triethylamine (75 μL), and ethanolamine (9 μL) were added sequentially to the reaction flask and stirred overnight. Concentrated and residue chromatographed on silica gel using 5% MeOH in dichloromethane as eluent. Product N-(2-hydroxyethyl)-3-(3-methyl-2-oxo-7-(3-(trifluoromethyl)benzylamino)-quinoxalin-1(2H)-yl)propanamide is isolated as yellow solid.

reactant | 3-(3-methyl-2-oxo-7-(3-(trifluoromethyl)benzylamino)-quinoxalin-I (2H)-yl)propanoic acid | 50 mg | CC=1C(N(C2=CC(=CC=C2N1)NCC1=CC(=CC=C1)C(F)(F)F)CCC(=O)O)=O | C20H18F3N3O3
reactant | HOBt | 20 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC hydrochloride | 29 mg | CCN=C=NCCCN(C)C.Cl
reactant | ethanolamine | 9 μL | C(O)CN | C2H7NO
solvent | chloroform | 1 mL | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | 75 μL | C(C)N(CC)CC | C6H15N
product | N-(2-hydroxyethyl)-3-(3-methyl-2-oxo-7-(3-(trifluoromethyl)benzylamino)-quinoxalin-1(2H)-yl)propanamide | OCCNC(CCN1C(C(=NC2=CC=C(C=C12)NCC1=CC(=CC=C1)C(F)(F)F)C)=O)=O | C22H23F3N4O3
